US07456200B2
5-(3-Chloro-phenyl)-3-(2-furan-2-yl-3-methyl-3H-imidazol-4-ylsulfanylmethyl)-[1,2,4]oxadiazole
2-Furan-2-yl-3-methyl-3,5-dihydro-imidazol-4-one (described in Takeuchi, H., Hagiwara, S., Eguchi, S., Tetrahedron (1989) 6375-6386) (50 mg, 0.30 mmol) was dissolved in dioxane (3 ml) and Lawesson reagent (136 mg, 0.34 mmol) was added. The reaction mixture was heated to reflux over night and then allowed to room temperature at which time DIPEA (212 ml, 1.22 mmol) and 3-chloromethyl-5-(3-chloro-phenyl)-[1,2,4]oxadiazole (140 mg, 0.61 mmol) was added. The resulting mixture was heated to reflux for 5 h and then kept at room temperature over night. Ethyl acetate was added and the reaction mixture was washed with water followed by brine. The organic phase was dried over MgSO4 and evaporated. The title compound (13 mg, 11%) was obtained by flash chromatography using 1% methanol in chloroform. 1H NMR (CD3OD) d (ppm): 7.96 (m, 1H), 7.90 (m, 1H), 7.60 (dd, 1H), 7.57 (ddd, 1H), 7.46 (t, 1H), 7.09 (s, 1H), 6.86 (dd, 1H), 6.52 (dd, 1H), 3.95 (s, 2H), 3.74 (s, 3H).

reactant | 2-Furan-2-yl-3-methyl-3,5-dihydro-imidazol-4-one | 0.30 mmol, 50 mg | O1C(=CC=C1)C1=NCC(N1C)=O | C8H8N2O2
reactant | Lawesson reagent | 0.34 mmol, 136 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | DIPEA | 1.22 mmol, 212 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloromethyl-5-(3-chloro-phenyl)-[1,2,4]oxadiazole | 0.61 mmol, 140 mg | ClCC1=NOC(=N1)C1=CC(=CC=C1)Cl | C9H6Cl2N2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-Chloro-phenyl)-3-(2-furan-2-yl-3-methyl-3H-imidazol-4-ylsulfanylmethyl)-[1,2,4]oxadiazole | 13 mg, 11% | ClC=1C=C(C=CC1)C1=NC(=NO1)CSC=1N(C(=NC1)C=1OC=CC1)C | C17H13ClN4O2S
